US08669208B2
2,2,7-Trifluoro-2H-benzo[b][1,4]oxazin-3(4H)-one
To 2-bromo-2,2-difluoro-N-(4-fluoro-2-hydroxyphenyl)acetamide (33 g, 116 mmol) in dry toluene was added 1,8-diazabicyclo[5.4.0]undec-7-en (DBU, 17.51 ml, 116 mmol). The resulting mixture was stirred overnight at 80° C. The reaction was quenched in saturated aqueous NH4Cl solution and extracted with ethyl acetate. The combined extracts were washed with brine, dried with Na2SO4 and concentrated to afford 24.94 g of the title compound.

reactant | 2-bromo-2,2-difluoro-N-(4-fluoro-2-hydroxyphenyl)acetamide | 116 mmol, 33 g | BrC(C(=O)NC1=C(C=C(C=C1)F)O)(F)F | C8H5BrF3NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-en | 116 mmol, 17.51 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2,7-Trifluoro-2H-benzo[b][1,4]oxazin-3(4H)-one | 24.94 g | FC1(C(NC2=C(O1)C=C(C=C2)F)=O)F | C8H4F3NO2
